US08349869B2
Step 2: synthesis of 3-methoxy-2-methylaniline (33)
TFA (40.7 mL, 548 mmol) was added to a solution of N-(tert-butyloxycarbonyl)-3-methoxy-2-methylaniline, in dichloromethane (500 mL). After 2 h at room temperature, TFA (40.7 mL, 548 mmol) was added and the resulting mixture was stirred at room temperature overnight. Then, volatiles were evaporated. The residue was triturated with toluene (100 mL) and diisopropylether (250 mL), filtered off and washed with diisopropyl ether (100 mL) to give 56.3 g of the title product as a TFA salt: m/z=138 (M+H)+. The TFA salt was transformed to the free aniline by treatment with NaHCO3.

reactant | TFA | 548 mmol, 40.7 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | N-(tert-butyloxycarbonyl)-3-methoxy-2-methylaniline | C(C)(C)(C)OC(=O)NC1=C(C(=CC=C1)OC)C | C13H19NO3
reactant | TFA | 548 mmol, 40.7 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 500 mL | ClCCl | CH2Cl2
product | 3-methoxy-2-methylaniline | 56.3 g | COC=1C(=C(N)C=CC1)C | C8H11NO
